US07122543B2
(S)-N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]-1-phenyl-ethylamine
(S)-N-[3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]-1-phenylethylamine (69 mg, 0.1311 mmol) was dissolved in a mixed solvent of acetonitrile (9 ml) and water (3 ml), then CAN (180 mg, 0.3284 mmol) was added thereto at room temperature and the mixture was stirred for 3 hours. The reaction solution was poured into water, neutralized with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer silica gel (hexane:ethyl acetate=1:3) to give the title compound (48 mg, 0.0967 mmol, 74%).

reactant | (S)-N-[3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]-1-phenylethylamine | 0.1311 mmol, 69 mg | COC=1C(=C(CC=2C(=C(C(=O)N[C@@H](C)C3=CC=CC=C3)C=CC2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C32H34N2O5
reactant | CAN | 0.3284 mmol, 180 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | (S)-N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]-1-phenyl-ethylamine | 0.0967 mmol, 48 mg, 74% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)N[C@@H](C)C2=CC=CC=C2)C=CC1)C=1C=NC=CC1)C)=O | C30H28N2O5
